US06124283
(R)-N-[8-(4-tert-Butyloxycarbonylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide
To a solution of 4-morpholinobenzoic acid (0.59 g, 2.8 mmol; described in: Degutis, J.; Rasteikiene, L.; Degutiene, A. Zh. Org. Khim. 1978, 14 (10), 2060-2064) in anhydrous N,N-dimethylformamide (30 mL) was added 1,1'-carbonyldiimidazole (0.48 g, 3.0 mmol) and the reaction was heated at 75° C. When the carbon dioxide evolution had ceased (after 30 min), the reaction was cooled to room temperature and a solution of tert-butyl (R)-4-(7-amino-5,6,7,8-tetrahydro-1-naphthyl)piperazine-1-carboxylate (0.90 g, 2.7 mmol) in anhydrous N,N-dimethylformamide (15 mL) was added. The reaction was allowed to stir at ambient temperature for 24 h and the solvent was evaporated in vacuo. Purification on a silica gel column using chloroform/ethanol saturated with NH3 (100:2) as the eluent gave 1.5 g (84% yield) of the title compound as a dark-red viscous oil: [α]21D -45° (c 0.50, chloroform); EIMS (70 eV) m/z (relative intensity) 520 (5, M+).

reactant | 4-morpholinobenzoic acid | O1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C11H13NO3
reactant | 1,1'-carbonyldiimidazole | 3.0 mmol, 0.48 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | tert-butyl (R)-4-(7-amino-5,6,7,8-tetrahydro-1-naphthyl)piperazine-1-carboxylate | 2.7 mmol, 0.90 g | N[C@@H]1CCC=2C=CC=C(C2C1)N1CCN(CC1)C(=O)OC(C)(C)C | C19H29N3O2
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (R)-N-[8-(4-tert-Butyloxycarbonylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide | 1.5 g, 84% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC=C(C=C1)N1CCOCC1)=O | C30H40N4O4
